US07700628B2
C. N-(5-Chloropyridin-2-yl)-5-fluoro-2-[4-fluoro-2-(1,4-dioxa-spiro[4.5]decan-8-yloxy)benzoylamino]benzamide
N-(5-Chloropyridin-2-yl)-5-fluoro-2-(4-fluoro-2-hydroxybenzoylamino)-benzamide (1.62 g, 4 mmol), 8-hydroxy-1,4-dioxa-spiro[4.5]decane (630 mg, 4 mmol), and triphenylphosphine (1.04 g, 4 mmol) were dissolved in 4 mL dry DMF, 2 mL dry methylene chloride, and 6 mL dry THF. The resulting slurry was sonicated for 5 min, and then diisopropyl azodicarboxylate (DIAD, 0.8 mL, 4 mmol) was added; and the mixture was sonicated for 2 h. Ether (40 mL) was added, and the mixture was cooled in the freezer overnight. Triphenylphosphine oxide was filtered off, and the resulting solution was concentrated to dryness under reduced pressure. Flash chromatography on silica gel gave the crude product (1.53 g) as a viscous, colorless oil which was used without further purification.

reactant | N-(5-Chloropyridin-2-yl)-5-fluoro-2-(4-fluoro-2-hydroxybenzoylamino)-benzamide | 4 mmol, 1.62 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)F)O)=O)=O | C19H12ClF2N3O3
reactant | 8-hydroxy-1,4-dioxa-spiro[4.5]decane | 4 mmol, 630 mg | OC1CCC2(OCCO2)CC1 | C8H14O3
reactant | triphenylphosphine | 4 mmol, 1.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4 mmol, 0.8 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Ether | 40 mL | CCOCC | C4H10O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Chloropyridin-2-yl)-5-fluoro-2-[4-fluoro-2-(1,4-dioxa-spiro[4.5]decan-8-yloxy)benzoylamino]benzamide | 1.53 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)F)OC1CCC2(OCCO2)CC1)=O)=O | C27H24ClF2N3O5
